US04164408
Ethyl 2-nitro-5-(2',4'-dichlorophenoxy)thiobenzoate
A mixture of 2-nitro-5-(2',4'-dichlorophenoxy)benzoyl chloride (4.16 g., 0.012 mole) and ethanethiol (2.24 g., 0.036 mole) in 40 ml. benzene was heated at reflux for 2 hours and 50 minutes and then cooled. The mixture was diluted with diethyl ether, washed twice with 10% aqueous NaOH, once with NaCl solution, dried, and evaporated to dryness to give 4.2 g. of an oil. Infrared analysis showed a large amount of initial benzoyl chloride and some desired product. The oil was dissolved in 100 ml. benzene and 3.0 g. ethanethiol and about 1.5 g. triethylamine were added. A precipitate formed immediately. The reaction mixture was refluxed for 1.5 hours, cooled, filtered and evaporated to dryness to give 4.65 g. of the desired product.

reactant | 2-nitro-5-(2',4'-dichlorophenoxy)benzoyl chloride | 0.012 mole, 4.16 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl | C13H6Cl3NO4
reactant | ethanethiol | 0.036 mole, 2.24 g | C(C)S | C2H6S
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl 2-nitro-5-(2',4'-dichlorophenoxy)thiobenzoate | [N+](=O)([O-])C1=C(C(=S)OCC)C=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl | C15H11Cl2NO4S
